US05112836
a) Dimethyl 6-nitro-2-phenyl-1,2,3,4-tetrahydroquinoline-4,8-dicarboxylate
A mixture of 6-nitro-2-phenyl-1,2,3,4-tetrahydroquinoline-4,8-dicarboxylic acid (8.92 g), potassium carbonate (10 g) and methyl iodide (5 ml) in DMF (30 ml) was stirred at room temperature for 2 hours, filtered and concentrated. The residue was dissolved in ethyl acetate (300 ml). The organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated to give 7.92 g (82.3%) of the title compound as yellow crystals.

reactant | 6-nitro-2-phenyl-1,2,3,4-tetrahydroquinoline-4,8-dicarboxylic acid | 8.92 g | [N+](=O)([O-])C=1C=C2C(CC(NC2=C(C1)C(=O)O)C1=CC=CC=C1)C(=O)O | C17H14N2O6
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 5 ml | CI | CH3I
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
product | Dimethyl 6-nitro-2-phenyl-1,2,3,4-tetrahydroquinoline-4,8-dicarboxylate | 7.92 g, 82.3% | [N+](=O)([O-])C=1C=C2C(CC(NC2=C(C1)C(=O)OC)C1=CC=CC=C1)C(=O)OC | C19H18N2O6
